US03960956
A solution of 1.5 g (5.6 moles) of 1,1a,6,10b-tetrahydrodibenzo[a,e]cyclopropa[c]cyclohepten-6-one dimethylketal, 2.5 g of hydroxylamine hydrochloride in 20 ml of pyridine was held at reflux for 18 hr. The solvent was removed under reduced pressure and the residue was dissolved with a mixture of water and methylene chloride. The layers were separated and the organic layer was in turn washed with 10% hydrochloric acid, saturated sodium bicarbonate solution and saturated brine, dried and solvent removed to give 1,1a,6,10b-tetrahydrodibenzo[a,e]cyclopropa[c]cyclohepten-6-one oxime. All of the physical properties were identical to those obtained by Example 1A. Note: The oxime forms a solvate with methanol.

reactant | 1,1a,6,10b-tetrahydrodibenzo[a,e]cyclopropa[c]cyclohepten-6-one dimethylketal | 5.6 moles, 1.5 g | COC1(C2=C(C3C(C4=C1C=CC=C4)C3)C=CC=C2)OC | C18H18O2
reactant | hydroxylamine hydrochloride | 2.5 g | Cl.NO
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | 1,1a,6,10b-tetrahydrodibenzo[a,e]cyclopropa[c]cyclohepten-6-one oxime | C1C2C3=C(C(C4=C(C21)C=CC=C4)=NO)C=CC=C3 | C16H13NO
